US06509328B1
{2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4-iodo-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-iodo-phenyl)-carbamic acid tert.-butyl ester (Example G1) (900 mg, 2.7 mmol) and 3-(3-cyano-phenyl)-3-oxo-propionic acid ethyl ester (880 mg, 4.1 mmol) according to the general procedure K. Obtained as a yellow solid (1.2 g).

reactant | (2-amino-4-iodo-phenyl)-carbamic acid tert.-butyl ester | 2.7 mmol, 900 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)I)N)=O | C11H15IN2O2
reactant | 3-(3-cyano-phenyl)-3-oxo-propionic acid ethyl ester | 4.1 mmol, 880 mg | C(C)OC(CC(=O)C1=CC(=CC=C1)C#N)=O | C12H11NO3
product | {2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4-iodo-phenyl}-carbamic Acid tert.-Butyl Ester | 1.2 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)I)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C21H20IN3O4
